US08703805B2
To a solution of 2-(5-(4-bromophenyl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-2-ol (115 mg, 0.27 mmol) and 3-(methylsulfonyl)phenylboronic acid (66 mg, 033 mmol) in 1,2-dimethoxyethane (1.5 mL) was added K2CO3 (110 mg, 0.80 mmol) and H2O (1.5 mL). The resulting biphasic suspension was stirred at ambient temperature and sparged with nitrogen for 10 minutes. The reaction was then treated with dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium (11) dichloromethane adduct (15 mg, 18 μmol) and heated to 80° C. in an oil bath. The reaction was heated at 80° C. for three hours and then allowed to cool to ambient temperature overnight. The cooled reaction mixture was diluted with EtOAc and H2O. The aqueous layer was extracted with EtOAc (3×). The combined organic extracts were washed with brine, dried over Na2SO4, filtered and concentrated to afford crude product as a dark oil. The crude product was purified by flash-column chromatography eluting with a gradient from 10% to 100% EtOAc/hexane to afford 2-(5-(3′-(methylsulfonyl)biphenyl-4-yl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-2-ol (122 mg, 90% yield) as an off-white powder. MS(ES): 501 [M+H]+.

reactant | 2-(5-(4-bromophenyl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-2-ol | 0.27 mmol, 115 mg | BrC1=CC=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(C)(C)O | C19H16BrF3N2O
reactant | 3-(methylsulfonyl)phenylboronic acid | 66 mg | CS(=O)(=O)C=1C=C(C=CC1)B(O)O | C7H9BO4S
reactant | K2CO3 | 0.80 mmol, 110 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dimethoxyethane | 1.5 mL | COCCOC | C4H10O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium | 18 μmol, 15 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | H2O | 1.5 mL | O | H2O
product | 2-(5-(3′-(methylsulfonyl)biphenyl-4-yl)-1-(2-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)propan-2-ol | 122 mg, 90% yield | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)C1=CC(=NN1C1=C(C=CC=C1)C(F)(F)F)C(C)(C)O | C26H23F3N2O3S
